US07323460B2
Step 1: 1-(Bromomethyl)-4-fluoro-2-iodobenzene
A suspension of 4-fluoro-2-iodotoluene (14.3 g, 60.6 mmol, Lancaster Synthesis), N-bromosuccinimide (16.2 g, 90.9 mmol), and benzoyl peroxide (0.74 g, 3.0 mmol) in carbon tetrachloride (500 mL) was heated to reflux for 3 days. Additional NBS (0.5 eq portions) was added as needed over this period to drive the reaction to completion. The reaction was cooled, filtered, and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography (ISCO column, 110 g silica gel) eluting with 100% hexane to afford the desired product as a white solid.

reactant | 4-fluoro-2-iodotoluene | 60.6 mmol, 14.3 g | FC1=CC(=C(C=C1)C)I | C7H6FI
reactant | N-bromosuccinimide | 90.9 mmol, 16.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.0 mmol, 0.74 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NBS | 0.5 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(Bromomethyl)-4-fluoro-2-iodobenzene | BrCC1=C(C=C(C=C1)F)I | C7H5BrFI
